US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(but-1-yloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(1H-indol-3-yl)-2-methylprop-1-yl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(but-1-yloxy)phenoxy]ethyl}amine hydrochloride, m.p. 150°-152° C.

reactant | 2-[2-(but-1-yloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCCCC | C13H20O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(1H-indol-3-yl)-2-methylprop-1-yl]amine | N1C=C(C2=CC=CC=C12)C(CN)(C)C | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(but-1-yloxy)phenoxy]ethyl}amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=CC=C1)OCCCC | InChI=1S/C24H32N2O2.ClH/c1-4-5-15-27-22-12-8-9-13-23(22)28-16-14-26-24(2,3)17-19-18-25-21-11-7-6-10-20(19)21;/h6-13,18,25-26H,4-5,14-17H2,1-3H3;1H
